* 12-bit SAR ADC — SKY130 Bio-AFE
* StrongARM latch comparator + binary-weighted charge-redistribution DAC
* Baseline design: transistor-level comparator, ideal DAC

**************************************************
* STRONGARM LATCH COMPARATOR
**************************************************
* Ports: vinp vinn clk outp outn vdd vss
* When CLK rises: compares vinp vs vinn
* outp=VDD, outn=0 if vinp > vinn (positive decision)
* outp=0, outn=VDD if vinp < vinn (negative decision)
* When CLK=0: reset, outp=outn=VDD

.subckt strongarm_comp vinp vinn clk outp outn vdd vss
.param wp=1u wn=1u win=2u wtail=4u lmin=0.15u

* Tail current source (NMOS, clocked)
Xtail  di     clk    vss  vss  sky130_fd_pr__nfet_01v8 w=wtail l=lmin

* Input differential pair (NMOS)
X1     outn   vinp   di   vss  sky130_fd_pr__nfet_01v8 w=win l=lmin
X2     outp   vinn   di   vss  sky130_fd_pr__nfet_01v8 w=win l=lmin

* NMOS cross-coupled latch
X3     outp   outn   vss  vss  sky130_fd_pr__nfet_01v8 w=wn l=lmin
X4     outn   outp   vss  vss  sky130_fd_pr__nfet_01v8 w=wn l=lmin

* PMOS reset switches (active when CLK=0)
X5     outp   clk    vdd  vdd  sky130_fd_pr__pfet_01v8 w=wp l=lmin
X6     outn   clk    vdd  vdd  sky130_fd_pr__pfet_01v8 w=wp l=lmin

* PMOS cross-coupled latch
X7     outp   outn   vdd  vdd  sky130_fd_pr__pfet_01v8 w=wp l=lmin
X8     outn   outp   vdd  vdd  sky130_fd_pr__pfet_01v8 w=wp l=lmin

.ends strongarm_comp
